US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(1H-indol-2-yl)-pyrimidin-4-ylamine
The title compound, MS: m/e=383.9 (M+H+), was prepared from 1H-indole-2-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 1H-indole-2-carboxamidine | N1C(=CC2=CC=CC=C12)C(=N)N | C9H9N3
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(1H-indol-2-yl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C=1NC2=CC=CC=C2C1)N | C19H15Cl2N5
